US09120822B2
Potassium carbonate (2.50 g, 18.07 mmol, 2.1 eq) is added at room temperature to a stirred solution of thiophene-2-thiol (813 μL, 8.61 mmol, 1.0 eq) in 1,2-dibromoethane (10 mL) and the resulting mixture is stirred at 78° C. for 3 hours. Then potassium carbonate is removed by filtration and the mother liquid is concentrated to give a crude that is purified by column chromatography (silica gel, eluent: cyclohexane 100%) to afford 2-(2-bromo-ethylsulfanyl)-thiophene as a light yellow oil (1.86 g, 95% yield).

reactant | Potassium carbonate | 18.07 mmol, 2.50 g, 2.1 eq | C([O-])([O-])=O.[K+].[K+]
reactant | thiophene-2-thiol | 8.61 mmol, 813 μL, 1.0 eq | S1C(=CC=C1)S | C4H4S2
reactant | 1,2-dibromoethane | 10 mL | BrCCBr | C2H4Br2
product | 2-(2-bromo-ethylsulfanyl)-thiophene | 1.86 g, 95% yield | BrCCSC=1SC=CC1 | C6H7BrS2
